US05223525
Preparation of 1-(6-chloro-2-methylsulfenyl-4-trifluoromethylphenyl)-2-bromo-4-chlorodifluoromethylsulfonylimidazole
To a solution of 500 mg (0.984 mmole) of 1-(2,6-dichloro-4-trifluoromethylphenyl)-2-bromo-4-chlorodifluoromethylsulfonyl-imidazole in 2 ml of tetrahydrofuran was added a solution of 69 mg (0.984 mmole) of sodium methanethiolate in 0.3 ml of water. The resulting mixture was stirred at RT for 14 hours, after which it was partitioned between water and diethyl ether. The organic layer was separated, dried over anhydrous sodium sulfate and stripped of solvent. The residue was purified by preparative TLC using 20% ethyl acetate in hexane to give 180 mg (35% yield) of the product, mp 116° C.

reactant | 1-(2,6-dichloro-4-trifluoromethylphenyl)-2-bromo-4-chlorodifluoromethylsulfonyl-imidazole | 0.984 mmole, 500 mg | ClC1=C(C(=CC(=C1)C(F)(F)F)Cl)N1C(=NC(=C1S(=O)(=O)C(F)F)Cl)Br | C11H3BrCl3F5N2O2S
reactant | sodium methanethiolate | 0.984 mmole, 69 mg | C[S-].[Na+]
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | water | 0.3 ml | O | H2O
product | 1-(6-chloro-2-methylsulfenyl-4-trifluoromethylphenyl)-2-bromo-4-chlorodifluoromethylsulfonylimidazole | 180 mg, 35% yield | ClC1=CC(=CC(=C1N1C(=NC(=C1S(=O)(=O)C(F)F)Cl)Br)SC)C(F)(F)F | C12H6BrCl2F5N2O2S2
